US05834434
N-BOC-4-amino-1-naphthoyl methionine methyl ester
N-BOC-4-amino-1-naphthoic acid (0.46 g, 1.60 mmol), methionine methyl ester hydrochloride (0.35 g, 1.76 mmol), EDCI (0.43 g, 1.76 mmol), HOBT (0.24 g, 1.76 mmol) and Et3N (0.27 ml) in CH2Cl2 (6.4 ml) were reacted as described for N-BOC-4-aminobenzoyl methionine methyl ester in Example 1. After workup and recrystallization from ethyl acetate and hexanes, 0.44 g (63.6%) of pale pink crystals were obtained. mp 131°-132° C.; 1H NMR (CDCl3) 1.57 (9 H, s), 2.11-2.21 (4 H, m), 2.29-2.41 (1 H, m), 2.65 (2 H, t, J=7.1 Hz), 3.83 (3 H, s), 4.99-5.06 (1 H, m), 6.68 (1 H, d, J=8.0), 7.02 (1 H, s), 7.56-7.59 (2 H, m), 7.69 (1 H, d, J=7.9 Hz), 7.87-7.90 (1 H, m), 8.02 (1 H, d, J=7.9 Hz), 8.44-8.48 (1 H, m); 13C NMR (CDCl3) 15.56, 28.31, 30.19, 31.65, 52.06, 52.64, 81.17, 115.82, 120.18, 125.79, 126.37, 126.53, 127.18, 131.02, 135.65, 152.93, 169.04, 172.40; HRMS calc. for C22 H28N2O5S, 432.1719; found 432.1702; m/z (FAB) 433 (M+1).

reactant | N-BOC-4-amino-1-naphthoic acid | 1.60 mmol, 0.46 g | C(=O)(OC(C)(C)C)NC1=CC=C(C2=CC=CC=C12)C(=O)O | C16H17NO4
reactant | methionine methyl ester hydrochloride | 1.76 mmol, 0.35 g | Cl.COC([C@@H](N)CCSC)=O
reactant | EDCI | 1.76 mmol, 0.43 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.76 mmol, 0.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-BOC-4-aminobenzoyl methionine methyl ester | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)N)=O)CCSC)=O | C18H26N2O5S
solvent | CH2Cl2 | 6.4 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.27 ml | CCN(CC)CC | C6H15N
product | N-BOC-4-amino-1-naphthoyl methionine methyl ester | 0.44 g, 63.6% | COC([C@@H](N(C(=O)OC(C)(C)C)C(=O)C1=CC=C(C2=CC=CC=C12)N)CCSC)=O | C22H28N2O5S
